US08242145B2
Step 7: {5-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-2-trifluoromethyl-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 24, Step 7, using the following starting materials: [5-(4-Bromo-2-bromomethyl-phenoxy)-2-trifluoromethyl-phenyl]-acetic acid ethyl ester and (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone.

reactant | [5-(4-Bromo-2-bromomethyl-phenoxy)-2-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)CBr)C(F)(F)F)=O | C18H15Br2F3O3
reactant | (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone | C[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C10H11NO2
product | {5-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-2-trifluoromethyl-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)C(F)(F)F)=O | C28H25BrF3NO5
